US07109184B2
((n-heptadecyl)-hydroxyphosphinyl) methylphosphonic acid tri-sodium salt
Bromotrimethylsilane (0.34 mL, 2.58 mmol) was added dropwise to ((n-heptadecyl)-2-propoxyphosphinyl) methylphosphonic acid di-2-propoxy ester (0.150 g, 0.286 mmol) in a 3 mL vial. The resulting solution was stirred for 14–16 hours at ambient temperature. Excess bromotrimethylsilane was then removed by passing a steady stream of dry nitrogen over the solution for 2 hours. The solution was then placed under high vacuum for 3 hours to remove any residual bromotrimethylsilane. Tributylamine (0.24 g, 1.29 mmol) and methanol (2 mL) were then added to the vial resulting in a clear solution. This solution was then added dropwise to a 0.5 M solution of NaI in acetone (5.0 mL, 2.5 mmol). A white precipitated immediately appeared. The solid was collected by centrifugation and the acetone solution was discarded. The solid was then washed by suspension in clean acetone (20 mL), centrifugation and removal of acetone supernatant. After this washing procedure was completed 3 times, the solid was placed under vacuum for a period of 12–16 hours providing the desired product (0.113 g, 85% yield). 1H NMR (400 MHz D2O): δ 1.7 (m, 2H), 1.3 (m, 4H), 1.1 (m, 28H), 0.7 (t, 3H).

reactant | Bromotrimethylsilane | 2.58 mmol, 0.34 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | ((n-heptadecyl)-2-propoxyphosphinyl) methylphosphonic acid di-2-propoxy ester | 0.286 mmol, 0.150 g | CC(C)OOP(OOC(C)C)(=O)CP(=O)(OC(C)C)CCCCCCCCCCCCCCCCC | C27H58O7P2
reactant | Tributylamine | 1.29 mmol, 0.24 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | NaI | [Na+].[I-]
reactant | acetone | 2.5 mmol, 5.0 mL | CC(=O)C | C3H6O
solvent | methanol | 2 mL | CO | CH4O
product | ((n-heptadecyl)-hydroxyphosphinyl) methylphosphonic acid tri-sodium salt | 0.113 g, 85% yield | [Na+].[Na+].[Na+].C(CCCCCCCCCCCCCCCC)P(=O)(O)CP([O-])([O-])=O | InChI=1S/C18H40O5P2.3Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-24(19,20)18-25(21,22)23;;;/h2-18H2,1H3,(H,19,20)(H2,21,22,23);;;/q;3*+1/p-2
